US05656629
To a solution of 2-hydroxyphenylacetic acid (25 g, 0.16 mol) in DMF (300 mL) was added K2CO3 (56.7 g, 0.41 mol), followed by methyl iodide (46.7 g, 0.32 mol). The reaction mixture was stirred for about 3 days, filtered and the filtrate was stripped. The residue was taken up in ethyl acetate, washed with water, saturated Na2CO3, then brine, and then the organic layer was dried over MgSO4, filtered and stripped to afford 26.4 g (92%) of methyl 2-methoxyphenylacetate.

reactant | 2-hydroxyphenylacetic acid | 0.16 mol, 25 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | K2CO3 | 0.41 mol, 56.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.32 mol, 46.7 g | CI | CH3I
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
product | methyl 2-methoxyphenylacetate | 26.4 g, 92% | COC1=C(C=CC=C1)CC(=O)OC | C10H12O3
